US08017809B2
Bis(4,4′-(3-chloro-4-methylphenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether
The entitled compound (5 mg) was obtained by allowing 22 mg of N,N-dimethylethanolamine to act on 99 mg of bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether in 0.5 mL of ethanol.

reactant | N,N-dimethylethanolamine | 22 mg | CN(CCO)C | C4H11NO
reactant | bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether | 99 mg | ClC=1C=C(C=CC1C)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC(=C(C=C1)C)Cl | C28H26B2Cl2O3
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | Bis(4,4′-(3-chloro-4-methylphenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether | ClC=1C=C(C=CC1C)B(OCCN(C)C)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCN(C)C)C1=CC(=C(C=C1)C)Cl | C36H44B2Cl2N2O3
